US09290468B2
Step 6: 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxy benzoic acid
To a solution of benzyl 4-azido-5-benzyloxy-3-fluoro-2-((2-fluoro-phenyl)amino)benzoate (14.63 g, 30.07 mmol) in MeOH (200 mL) was added and 10% palladium on carbon (2.55 g) under nitrogen atmosphere. Then the nitrogen atmosphere was completely changed to hydrogen atmosphere. The mixture was stirred for 3 h at ambient temperature. After the insoluble matter was filtered off, the solvent was concentrated in vacuo to give the desired product, which was used directly in next step without further purification.

reactant | benzyl 4-azido-5-benzyloxy-3-fluoro-2-((2-fluoro-phenyl)amino)benzoate | 30.07 mmol, 14.63 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C27H20F2N4O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | palladium on carbon | 2.55 g | [Pd] | Pd
product | 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-hydroxy benzoic acid | NC1=C(C(=C(C(=O)O)C=C1O)NC1=C(C=CC=C1)F)F | C13H10F2N2O3
